US04273782
A mixture of 2-picolinic acid (0.25 g) and N,N'-carbonyldiimidazole (0.33 g) was heated on a steam bath for 30 minutes in dioxan (10 ml) to give a clear solution. 1-(2-Aminoethyl)-3-(1-imidazolylmethyl) indole (0.48 g) in dioxan (2 ml) was added and the solution was heated on a steam bath for 1 hour and then evaporated. The residue was dissolved in ethyl acetate and the solution was washed with water and dried (NaSO4). Evaporation of the solvent gave a solid which was chromatographed on silica gel. Elution with chloroform gave some impurity and pure product was eluted with a mixture of chloroform and methanol (20:1). Evaporation of the product containing fractions gave a solid which was crystallised from isopropanol/petrol to give 1-[2-(2-picolinoylamino) ethyl]-3-(1-imidazolylmethyl)indole (0.2 g), m.p. 183°-184° C. Found: C, 69.67; H, 5.6; N, 19.42. C20H19N5O requires: C, 69.54; H, 5.55; N, 20.28%.

reactant | 2-picolinic acid | 0.25 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-(2-Aminoethyl)-3-(1-imidazolylmethyl) indole | 0.48 g | NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H16N4
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(2-picolinoylamino) ethyl]-3-(1-imidazolylmethyl)indole | 0.2 g | N1=C(C=CC=C1)C(=O)NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C20H19N5O
